US06888004B2
5-Fluoro-2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,8-triaza-cyclopenta[α]indene-3-carboxylic acid cyclopropylmethyl-propyl-amide:
A solution of trimethylaluminum (2.0 M in heptane, 1.4 mL, 2.8 mmol) was added to a solution of N-cyclopropylmethyl-N-propylamine (0.40 mL, 2.8 mmol) in benzene (3 mL) at 0° C. The mixture was warmed up to room temperature and stirred at this temperature for 1.5 hours, and then added to a stirred solution of 5-fluoro-2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,8-triaza-cyclopenta[α]indene-3-carboxylic acid ethyl ester (0.13 g, 0.35 mmol) in benzene (2.0 mL). The mixture was refluxed for 12 hours. Upon cooling at 0° C., 1 N sodium hydroxide (15 mL) was added dropwise to the above mixture. The mixture was extracted with dicholoromethane (30 mL), and the organic layer was dried over anhydrous sodium sulfate. Solvents were removed in vacuo and the residue was subjected to chromatography using ethyl acetate/hexanes (3:7) as eluent to afford the title compound as an off-white solid (0.156 g, 100% yield). 1H NMR (CDCl3, 300 MHz) δ 7.60 (dd, J=8.7, 2.5 Hz, 1H), 6.99 (s, 2H), 6.92 (td, J=9.0, 2.5 Hz, 1H), 6.75 (dd, J=8.8, 4.4 Hz, 1H), 3.66 (t, J=7.1 Hz, 2H), 3.46 (d, J=6.9 Hz, 2H), 2.35 (s, 3H), 2.32 (s, 3H), 1.92 (s, 6H), 1.71-1.63 (m, 2H), 1.11-1.05 (m, 1H), 0.88 (t, J=7.2 Hz, 3H), 0.57-0.53 (m, 2H), 0.19-0.16 (m, 2H); 13C NMR (CDCl3, 75 MHz) δ 163.6, 159.4, 156.3, 148.9, 143.3, 139.4, 137.0, 131.6, 129.7, 128.7, 124.8 (d, J=13 Hz), 114.2, 110.6 (d, J=25 Hz), 101.2 (d, J=29 Hz), 51.3, 48.6, 21.1, 21.0, 17.8, 15.7, 11.3, 10.1, 3.8. LC/MS: tR=1.95 min, 447.22 (MH+).

reactant | trimethylaluminum | 2.8 mmol, 2.0 M, 1.4 mL | C[Al](C)C
reactant | N-cyclopropylmethyl-N-propylamine | 2.8 mmol, 0.40 mL | C1(CC1)CNCCC | C7H15N
reactant | 5-fluoro-2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,8-triaza-cyclopenta[α]indene-3-carboxylic acid ethyl ester | 0.35 mmol, 0.13 g | C(C)OC(=O)C1=C(N=C2N1C=1C=C(C=CC1N2C2=C(C=C(C=C2C)C)C)F)C | C22H22FN3O2
reactant | sodium hydroxide | 1 N, 15 mL | [OH-].[Na+]
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 2.0 mL | C1=CC=CC=C1 | C6H6
product | 5-Fluoro-2-methyl-8-(2,4,6-trimethyl-phenyl)-8H-1,3a,8-triaza-cyclopenta[α]indene-3-carboxylic acid cyclopropylmethyl-propyl-amide | 0.156 g, 100% yield | C1(CC1)CN(C(=O)C1=C(N=C2N1C=1C=C(C=CC1N2C2=C(C=C(C=C2C)C)C)F)C)CCC | C27H31FN4O
